US07034039B2
A solution of 5-benzyloxy-2-(ethoxycarbonyl)benzoic acid (21.86 g, 120 mmol), ethyl 2-(neopentylamino)acetate (20.79 g, 120 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (28.76 g, 150 mmol) and 1-hydroxybenzotriazole (22.97 g, 150 mmol) in N,N-dimethylformamide (200 ml) was stirred at room temperature for 3 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (300 ml), and potassium carbonate (33.17 g, 240 mmol) and benzyl bromide (35.7 ml, 300 mmol) were added. The mixture was stirred at room temperature for 12 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethanol (50 ml) and 20% sodium ethoxide ethanol solution (34.04 g, 100 mmol) was added. The mixture was stirred at room temperature for 1 h. The reaction mixture was poured into 1N hydrochloric acid (150 ml) and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography and the component eluted earlier was concentrated to give ethyl 7-benzyloxy-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate as an oil. To a solution of the obtained ethyl 7-benzyloxy-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (3.26 g, 8 mmol), 1-butanol (1.1 ml, 12 mmol) and tributylphosphine (4.0 ml, 16 mmol) in tetrahydrofuran (30 ml) was added 1,1′-(azodicarbonyl)dipiperidine (4.04 g, 16 mmol) and the mixture was stirred at room temperature for 3 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give ethyl 7-benzyloxy-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (3.61 g, 97.0%) as an oil.

reactant | ethyl 7-benzyloxy-4-hydroxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 8 mmol, 3.26 g | C(C1=CC=CC=C1)OC1=CC=C2C(=C(N(C(C2=C1)=O)CC(C)(C)C)C(=O)OCC)O | C24H27NO5
reactant | 1-butanol | 12 mmol, 1.1 ml | C(CCC)O | C4H10O
reactant | tributylphosphine | 16 mmol, 4.0 ml | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 16 mmol, 4.04 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | ethyl 7-benzyloxy-4-butoxy-2-neopentyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 3.61 g, 97.0% | C(C1=CC=CC=C1)OC1=CC=C2C(=C(N(C(C2=C1)=O)CC(C)(C)C)C(=O)OCC)OCCCC | C28H35NO5
